US04080449
A solution of 8 g. (0.034 moles) of 2-(2-cyanoethyl)-5-methyl-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one in 220 ml. of acetic anhydride is introduced into a 2-liter autoclave, 12 g. of anhydrous sodium acetate and approximately 5 g. of W-5 -Raney nickel, washed twice with 20 ml. of acetic anhydride, are added thereto. The reaction mixture is brought to a temperature of 50° C. and then stirred for 4 hours under a hydrogen pressure (initial pressure of 3.5 bars). The reaction mixture is filtered, the catalyst is washed with a little acetic anhydride and the solvent is evaporated in vacuo. The residual oil is suspended in water and the pH of the mixture is adjusted to 8 by the addition of aqueous sodium hydroxide solution. It is extracted with chloroform and the organic phase is washed with water and dried over anhydrous sodium sulfate. The syrup obtained after filtration and evaporation of the solvent in vacuo is purified by chromatography on a silica column. 7 g. (74% of theory) of syrupy 2-(3-acetamidopropyl)-5-methyl-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one are obtained.

reactant | 2-(2-cyanoethyl)-5-methyl-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one | 0.034 moles | C(#N)CCN1CC2=C(C(CC1=O)C)C=CC=C2 | C14H16N2O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | 2-(3-acetamidopropyl)-5-methyl-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one | 74% | C(C)(=O)NCCCN1CC2=C(C(CC1=O)C)C=CC=C2 | C16H22N2O2
